US07786141B2
A solution of 1.2 eq oxalyl chloride (12.69 g, 0.10 mol) in dichloromethane (150 mL) was cooled to approximately −78° C. and treated dropwise, under nitrogen, with a solution of 2.4 eq anhydrous dimethylsulfoxide (15.63 g, 0.20 mol) in dichloromethane (50 mL). 15 minutes after the addition was complete, a solution of 1.0 eq ethyl 4-(hydroxymethyl)-piperidine-1-carboxylate (15.60 g, 83.3 mmol) in dichloromethane (50 mL) was added dropwise. 30 minutes after the addition was complete, a solution of 3.0 eq triethylamine (25.30 g, 0.25 mol) in dichloromethane (50 mL) was added dropwise and the reaction warmed to room temperature. The reaction was stirred at room temperature for 1 hour, then quenched with saturated sodium bicarbonate (500 mL). The layers were separated and the aqueous layer extracted once with dichloromethane (200 mL). The pooled organic layers were washed with H2O (3×100 mL), saturated sodium bicarbonate (1×100 mL) and saturated brine, then dried (Na2SO4) and filtered. The filtrate was concentrated in vacuo to afford 13.84 g ethyl 4-formylpiperidine-1-carboxylate as a viscous amber oil. 1H-NMR (400 MHz, CDCl3) δ 9.64 (s, 1H), 4.10 (q, J=7.2 Hz, 2H), 4.00 (br m, 2H), 2.97 (m, 2H), 2.40 (m, 1H), 1.87 (br m, 2H), 1.54 (m, 2H), 1.23 (t, J=7.0 Hz, 3H).

reactant | oxalyl chloride | 0.10 mol, 12.69 g, 1.2 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.20 mol, 15.63 g, 2.4 eq | CS(=O)C | C2H6OS
reactant | ethyl 4-(hydroxymethyl)-piperidine-1-carboxylate | 83.3 mmol, 15.60 g, 1.0 eq | OCC1CCN(CC1)C(=O)OCC | C9H17NO3
reactant | triethylamine | 0.25 mol, 25.30 g, 3.0 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | ethyl 4-formylpiperidine-1-carboxylate | 13.84 g | C(=O)C1CCN(CC1)C(=O)OCC | C9H15NO3
